US07763657B2
N-{4-[3-(4-chlorobenzyl)ureidomethyl]-2-vinylphenyl}methane sulfonamide
As described in scheme 12, (4-methanesulfonylamino-3-vinylbenzyl)carbamic acid t-butylester (50 mg, 0.153 mmol) and triethylamine (0.1 ml) and 4-chlorobenzylamine (26 mg) were stirred for one night in the presence of acetonitrile solvent. The solvent was removed from the reaction mixture and purified by column chromatography to yield the purposed compound (9 mg).

reactant | (4-methanesulfonylamino-3-vinylbenzyl)carbamic acid t-butylester | 0.153 mmol, 50 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C)=O | C15H22N2O4S
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzylamine | 26 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | acetonitrile | C(C)#N | C2H3N
product | N-{4-[3-(4-chlorobenzyl)ureidomethyl]-2-vinylphenyl}methane sulfonamide | 9 mg | ClC1=CC=C(CNC(NCC2=CC(=C(C=C2)NS(=O)(=O)C)C=C)=O)C=C1 | C18H20ClN3O3S
